Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lisinopril / furosemide / Cartia XT
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___

attach
 
Pertinent Results:
ADMISSION LABS
==============
___ 11:30AM BLOOD WBC-12.1* RBC-4.48 Hgb-13.2 Hct-40.7 
MCV-91 MCH-29.5 MCHC-32.4 RDW-14.6 RDWSD-48.4* Plt ___
___ 11:30AM BLOOD Neuts-72.9* Lymphs-18.3* Monos-6.8 
Eos-1.2 Baso-0.4 Im ___ AbsNeut-8.78* AbsLymp-2.21 
AbsMono-0.82* AbsEos-0.15 AbsBaso-0.05
___ 11:30AM BLOOD ___ PTT-22.9* ___
___ 01:24PM BLOOD Glucose-162* UreaN-16 Creat-0.9 Na-145 
K-3.9 Cl-105 HCO3-23 AnGap-17
___ 01:24PM BLOOD ALT-28 AST-38 AlkPhos-67 TotBili-1.4
___ 01:24PM BLOOD Albumin-4.0 Calcium-9.5 Phos-3.2 Mg-2.1
___ 03:30AM BLOOD calTIBC-287 Ferritn-127 TRF-221

TROPONIN TREND
==============
___ 11:30AM BLOOD cTropnT-0.01
___ 01:24PM BLOOD cTropnT-0.26* proBNP-1322*
___ 07:20PM BLOOD CK-MB-64* cTropnT-1.46*
___ 03:30AM BLOOD CK-MB-56* cTropnT-1.82*
___ 09:15AM BLOOD cTropnT-1.61*

IMAGING AND STUDIES
===================
___ CXR
Bibasilar atelectasis.  Otherwise no acute cardiopulmonary 
process.

___ TTE
Mild symmetric left ventricular hypertrophy with normal cavity 
size and regional/
global biventricular systolic function. Dense mitral annular 
calcification with severe functional
stenosis and moderate mitral regurgitation. Mild aortic 
stenosis.

DISCHARGE LABS
==============
___ 07:52AM BLOOD WBC-7.4 RBC-3.56* Hgb-10.4* Hct-33.0* 
MCV-93 MCH-29.2 MCHC-31.5* RDW-15.3 RDWSD-51.1* Plt ___
___ 05:51AM BLOOD ___ PTT-149.8* ___
___ 07:52AM BLOOD Glucose-102* UreaN-17 Creat-0.9 Na-141 
K-4.1 Cl-105 HCO3-24 AnGap-12
___ 07:52AM BLOOD Calcium-9.2 Phos-3.5 Mg-2.2

MICROBIOLOGY
============
None
 
Brief Hospital Course:
Summary Statement:
==================
___ with history of severe MS ___ gradient 7mmHg) due to 
MAC w/significant stenosis, & non-obstructive CAD who presented 
with NSTEMI I/s/o AF/RVR and s/p DCCV on ___ with downtrending 
troponins and cor angio ___ without need for intervention 
revealing single vessel coronary artery disease involving the 
non-dominant RCA.

Active Issues:
==============
#New onset Afib with hemodynamic instability
#Hypotension and afib with RVR requiring DCCV
Most likely etiology is MAC from mitral stenosis. s/p DCCV 
___, at which point she was loaded with amio IV although this 
was not continued PO. Patient remained in sinus rhythm since 
that time and was rate controlled with 37.5 mg metoprolol q6hr. 
This was uptritrated to 150mg XL BID before discharge. She was 
also started on apixaban 5mg BID for anticoagulation.  She will 
follow-up with Dr. ___ next week and will not need 
ambulatory cardiac monitoring in the meantime.

#NSTEMI:
Type II event I/s/o worsened CAD burden, s/p cor angio on ___
without need for intervention revealing single-vessel coronary 
artery disease involving she was continued on atorvastatin 80 
mg, and a TTE did not reveal new wall motion abnormalities done 
on ___.  Aspirin was discontinued in the setting of apixaban.  
She was noted to be a bit volume up on day of discharge and will 
continue torsemide 20 mg until ___ and switch back to 
maintenance dose 10 mg torsemide daily starting ___, 
___.  She is to have a basic metabolic panel drawn at ___ 
___, labs have been ordered.  Results will be faxed to the 
staff of Dr. ___.

#Bleeding at site of ___ surgery
Experience some minor bleeding at site of surgery, however this 
was well-controlled during her admission and did not experience 
further bleeding episodes despite being on anti-coagulation.

CHRONIC ISSUES:
===================
#history of HTN
Patient was previously on amlodipine but dc'd due to 
hypotension. Normotensive at time of discharge

#HLD
Continued home statin

#Asthma
Received duonebs PRN

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Torsemide 10 mg PO DAILY 
2. Metoprolol Succinate XL 100 mg PO BID 
3. Atorvastatin 80 mg PO QPM 
4. Aspirin 81 mg PO DAILY 
5. Vitamin D Dose is Unknown  PO DAILY 
6. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Torsemide 10 mg PO DAILY 
starting ___ 
RX *torsemide 10 mg 2 tablet(s) by mouth once a day Disp #*40 
Tablet Refills:*0 
3.  Metoprolol Succinate XL 150 mg PO BID 
RX *metoprolol succinate 50 mg 3 tablet(s) by mouth twice a day 
Disp #*120 Tablet Refills:*0 
4.  Torsemide 20 mg PO DAILY Duration: 3 Days 
take 20mg daily until ___, the switch to 10mg daily on ___  
5.  Vitamin D 1000 UNIT PO DAILY  
6.  Atorvastatin 80 mg PO QPM  
7.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Atrial fibrillation with rapid ventricular response

SECONDARY DIAGNOSIS
===================
NSTEMI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

___ was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because your heart rate was very fast and 
causing chest discomfort

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-You are found to be in atrial fibrillation and were 
cardioverted into a normal rhythm
-You were given medications in order to control the fast rates 
of your heart
-You underwent cardiac catheterization to look at the arteries 
in your heart were no blockages were found
-You were stabilized on a medication regimen to control your 
fast heart rates.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 
-You are to take torsemide 20 mg daily until ___.  On 
___ was all taken 10 mg torsemide daily.
 
Followup Instructions:
___